US04420615
A. Methyl N-Methyl-N-(2-diisopropylaminoethylamino-4,6-dimethyl-3-pyridylmethyl)carbamate
To a suspension of 50% sodium hydride in mineral oil (2.0 g, 42 mmol) in dry toluene (100 ml) under a nitrogen atmosphere is added a solution of methyl N-(2-diisopropylaminoethylamino-4,6-dimethyl-3-pyridylmethyl)carbamate (13.5 g, 40 mmol) in dry dimethyl sulfoxide (12 ml) and dry toluene (60 ml) in one portion. This mixture is stirred for one hour at room temperature and then methyliodide (2.52 ml, 40 mmol) is added dropwise. After stirring an additional three hours, acetic acid (6.0 ml) is added, followed by water. The aqueous layer is separated, washed with benzene and made basic with sodium carbonate. The product is extracted into methylene chloride, dried and evaporated to give 11.1 g of crude title A product.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl N-(2-diisopropylaminoethylamino-4,6-dimethyl-3-pyridylmethyl)carbamate | 40 mmol, 13.5 g | C(C)(C)N(CCNC(NC(OC)=O)C=1C=NC(=CC1C)C)C(C)C | C18H32N4O2
reactant | methyliodide | 40 mmol, 2.52 ml | CI | CH3I
reactant | acetic acid | 6.0 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethyl sulfoxide | 12 ml | CS(=O)C | C2H6OS
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | Methyl N-Methyl-N-(2-diisopropylaminoethylamino-4,6-dimethyl-3-pyridylmethyl)carbamate | CN(C(OC)=O)C(C=1C=NC(=CC1C)C)NCCN(C(C)C)C(C)C | C19H34N4O2
